US04719047
To a 500 mL 2-neck flask equipped with condenser, addition funnel with N2 inlet, and stirring bar was added 1-anthracenecarboxylic acid (6.88 g, 31 mmol) and dry THF (250 mL). To the addition funnel, was added a 1M solution of BH3 in THF (Aldrich, 50 mL, 50 mmol) via cannula. The BH3 solution was added over 1 h and the solution stirred overnight at RT. CH3OH was then added until H2 evolution ceased. H2O (5 mL) and then 1N HCl (5 mL) was added to the flask. The solvents were removed and then PhCH3 (100 mL) added to the flask. The PhCH3 was then also removed. The resulting solid was recrystallized from EtOAc/hexane to give 4.3 g (67%) of (1-anthryl)methanol mp 124°-125°, (C,H), (lit. 124°-125°, S. Akiyama et. al., Bull. Chem. Soc. Jap. 35 1826 (1962)).

reactant | 1-anthracenecarboxylic acid | 31 mmol, 6.88 g | C1(=CC=CC2=CC3=CC=CC=C3C=C12)C(=O)O | C15H10O2
reactant | THF | 250 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mmol, 50 mL | C1CCOC1 | C4H8O
reactant | CH3OH | CO | CH4O
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | H2O | 5 mL | O | H2O
product | (1-anthryl)methanol | 4.3 g, 67% | C1(=CC=CC2=CC3=CC=CC=C3C=C12)CO | C15H12O
